US07625914B2
0.1 g (0.3 mmol) of 2(S)-ethoxy-3-[6-(3-methylaminophenyl)pyrid-3-yl]propanoic acid is placed in 5 ml of methanol and 2 drops of concentrated sulfuric acid are added. The reaction medium is heated at 65° C. for 18 hours. The methanol is evaporated off and the residue is taken up in an ethyl acetate/water mixture. The pH is brought to 7 by addition of 1N sodium hydroxide solution and the reaction medium is extracted with ethyl acetate. The ethyl acetate phase is dried over sodium sulfate, filtered and evaporated. 70 mg (70%) of methyl 2(S)-ethoxy-3-[6-(3-methylaminophenyl)pyrid-3-yl]propanoate are obtained.

reactant | 2(S)-ethoxy-3-[6-(3-methylaminophenyl)pyrid-3-yl]propanoic acid | 0.3 mmol, 0.1 g | C(C)O[C@H](C(=O)O)CC=1C=NC(=CC1)C1=CC(=CC=C1)NC | C17H20N2O3
reactant | methanol | 5 ml | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | methyl 2(S)-ethoxy-3-[6-(3-methylaminophenyl)pyrid-3-yl]propanoate | 70 mg, 70% | C(C)O[C@H](C(=O)OC)CC=1C=NC(=CC1)C1=CC(=CC=C1)NC | C18H22N2O3
